US07160888B2
Synthesis of 7-{4-[4-(2,3-Dichloro-phenyl)-piperazin-1-yl]-butoxy}-3,3-dimethyl-1H-[1,8]naphthyridine-2,4-dione
To a solution of 4-(6,6-dimethyl-5,7-dioxo-5, 6,7,8-tetrahydro-[1,8]naphthyridin-2-yloxy)-butyraldehyde (0.520 g, 1.88 mmol) in DCE (6 mL) was added 1-(2,3-dichloro-phenyl)-piperazine hydrochloride (0.503 g, 1.88 mmol) followed by Et3N (0.53 mL, 3.76 mmol). The mixture was stirred for 20 minutes at room temperature and NaBH(OAc)3 (0.56 g, 2.60 mmol) was added. The reaction was stirred for 2.5 h and quenched with saturated NaHCO3 and water. The mixture was extracted with EtOAc and the organic layer was washed with saturated NaHCO3, water and brine, dried over Na2SO4 and concentrated. Purification by liquid chromatography on silica gel (0–5% MeOH/CH2Cl2) gave a white solid (0.277 g, 0.564 mmol, 30%). MS: APCI: M+1: 491.1 (Exact Mass: 490.15).

reactant | 4-(6,6-dimethyl-5,7-dioxo-5, 6,7,8-tetrahydro-[1,8]naphthyridin-2-yloxy)-butyraldehyde | 1.88 mmol, 0.520 g | CC1(C(C=2C=CC(=NC2NC1=O)OCCCC=O)=O)C | C14H16N2O4
reactant | 1-(2,3-dichloro-phenyl)-piperazine hydrochloride | 1.88 mmol, 0.503 g | Cl.ClC1=C(C=CC=C1Cl)N1CCNCC1
reactant | Et3N | 3.76 mmol, 0.53 mL | CCN(CC)CC | C6H15N
reactant | NaBH(OAc)3 | 2.60 mmol, 0.56 g | [BH-](OC(=O)C)(OC(=O)C)OC(=O)C.[Na+]
solvent | DCE | 6 mL | ClCCCl | C2H4Cl2
product | 7-{4-[4-(2,3-Dichloro-phenyl)-piperazin-1-yl]-butoxy}-3,3-dimethyl-1H-[1,8]naphthyridine-2,4-dione | 0.564 mmol, 0.277 g, 30% | ClC1=C(C=CC=C1Cl)N1CCN(CC1)CCCCOC1=CC=C2C(C(C(NC2=N1)=O)(C)C)=O | C24H28Cl2N4O3
